US05700919
2-(9-Fluorenylmethoxycarbonyl-)aminoethanol
68.0 g (ca 200 mMol) 9-fluorenylmethoxycarbonyl-N-hydroxysuccinimide ester (Fmoc-O-Su) is dissolved with stirring in 300 ml dioxan in a 1 l round-bottomed flask. 40 g Na2CO3 dissolved in 200 ml water as well as 14.4 ml (238 mMol) ethanolamine are added successively to the clear solution. The pulpy reaction mixture which forms at once is stirred overnight at room temperature and is aspirated on the following day. The filtration residue which contains unreacted Fmoc-O-Su, N-hydroxy-succinimide as well as the desired product, is re-crystallized from ethyl acetate. After drying in a vacuum 47.4 g pure product=76% of the theoretical yield are obtained.

reactant | Na2CO3 | 40 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanolamine | 238 mMol, 14.4 ml | C(O)CN | C2H7NO
reactant | N-hydroxy-succinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | dioxan | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 2-(9-Fluorenylmethoxycarbonyl-)aminoethanol | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCO | C17H17NO3
